US05824690
Combine 1-benzyl-(4-(pyridin-3-yl)-piperidine-4-carboxylic acid (2.5 g, 8.4 mmol) and morpholine (1.5 g, 16.9 mmol) in dimethylformamide (65 mL). Add 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC) (2.2 g), 1-hydroxy-benzotriazole hydrate (HOBt) (1.6 g), and dimethylformamide (25 mL). After 24 hours, pour the reaction mixture into a saturated aqueous sodium bicarbonate solution and extract twice with diethyl ether. Combine the organic layers, dry over MgSO4, filter, and concentrate to about 50 mL to give solid. Collect the solid by filtration, rinse with diethyl ether, and dry to give 1-benzyl-(4-(pyridin-3-yl)-piperidine-4-carboxylic acid morpholine-amide: Rf =0.67 (silica gel, dichloromethane/methanol/concentrated ammonia 90/10/0.5).

reactant | 4-(pyridin-3-yl)-piperidine-4-carboxylic acid | 8.4 mmol, 2.5 g | N1=CC(=CC=C1)C1(CCNCC1)C(=O)O | C11H14N2O2
reactant | morpholine | 16.9 mmol, 1.5 g | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.2 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-benzotriazole hydrate | 1.6 g | O.ON1N=NC2=C1C=CC=C2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 65 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 4-(pyridin-3-yl)-piperidine-4-carboxylic acid morpholine-amide | N1(CCOCC1)C(=O)N.N1=CC(=CC=C1)C1(CCNCC1)C(=O)O | InChI=1S/C11H14N2O2.C5H10N2O2/c14-10(15)11(3-6-12-7-4-11)9-2-1-5-13-8-9;6-5(8)7-1-3-9-4-2-7/h1-2,5,8,12H,3-4,6-7H2,(H,14,15);1-4H2,(H2,6,8)
